US05576335
To a suspension of 4-[3-(2-nitrophenoxy)propyl]-2,6-di-t-butylphenol (1.03 g) in ethanol (30 ml) was added a catalytic amount of 10% palladium/carbon to carry out catalytic reduction under 3-4 arms at 40° C. for 10 hrs. After filtering off the catalyst, the solvent was distilled off to give 4-[3-(2-aminophenoxy)propyl]-2,6-di-t-butylphenol. This compound was dissolved in dichloromethane (20 ml), to which diisopropylamine (0.75 ml) was added. Phenyl chloroformate (0.84 g) was added dropwise under ice-cooling. After stirring the mixture at room temperature overnight, the reaction solution was washed with water and then saturated saline and dried over anhydrous MgSO4. After distilling off the solvent, the residue was purified by a silica gel column chromatography (hexane:ethyl acetate=15:1) to give 1-(1-benzyl-4-piperidyl)-3-[2-[3-(3,5-di-t-butyl-4-hydroxyphenyl)propoxy]phenyl]urea (1.23 g, 97%).

reactant | 4-[3-(2-nitrophenoxy)propyl]-2,6-di-t-butylphenol | 1.03 g | [N+](=O)([O-])C1=C(OCCCC2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C=CC=C1 | C23H31NO4
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium/carbon | [Pd] | Pd
product | 4-[3-(2-aminophenoxy)propyl]-2,6-di-t-butylphenol | NC1=C(OCCCC2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C=CC=C1 | C23H33NO2
